US04220647
A mixture of N-acetyl-p-nitroanilinoacetaldehyde diethyl acetal (1 g), 3,4-dihydroxyphenethylamine hydrochloride (1 g), n-butyl alcohol (10 ml) and water (1.5 ml) was refluxed for 7 hours. In the course of the reaction, the above-mentioned acetal (2.5 g) was added to the mixture, twice in 0.5 g portions and five times in 0.3 g portions, one every hour. The reaction mixture was filtered and the filtrate was concentrated to dryness. The residue was pulverized by adding ether and the powder was collected by filtration, washed with ethyl acetate and water and dried to give 1-(p-nitroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1 g), mp 238° to 239° C. (dec).

reactant | N-acetyl-p-nitroanilinoacetaldehyde diethyl acetal | 1 g | C(C)OC(CN(C1=CC=C(C=C1)[N+](=O)[O-])C(C)=O)OCC | C14H20N2O5
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 1 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 10 ml | C(CCC)O | C4H10O
solvent | water | 1.5 ml | O | H2O
product | 1-(p-nitroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1 g | Cl.[N+](=O)([O-])C1=CC=C(NCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H17N3O4.ClH/c20-15-7-10-5-6-17-14(13(10)8-16(15)21)9-18-11-1-3-12(4-2-11)19(22)23;/h1-4,7-8,14,17-18,20-21H,5-6,9H2;1H
